US04400202
N-m-NITROPHENYL-2-METHYL-2-ETHYLSUCCINIMIDE (INTERMEDIATE)
Sixty-four g. of 2-methyl-2-ethylsuccinic acid was combined with 55.2 g. of m-nitro aniline in 250 ml. of xylene. One-half g. of p-toluene sulfonic acid was added and the mixture heated to reflux under a modified Dean Stark apparatus. After 15-16 ml. of water was removed, the mixture was cooled and the product recovered by filtration. Yield was 78 g. of a product having a m.p. of 88°-89° C. The product was identified as the title compound by analysis of infrared spectra.

reactant | 2-methyl-2-ethylsuccinic acid | CC(C(=O)O)(CC(=O)O)CC | C7H12O4
reactant | m-nitro aniline | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | N-m-NITROPHENYL-2-METHYL-2-ETHYLSUCCINIMIDE | [N+](=O)([O-])C=1C=C(C=CC1)N1C(C(CC1=O)(CC)C)=O | C13H14N2O4
